US05008472
(a) Terphenyl-4,4 -disulfonic acid
880 g of concentrated sulfuric acid were heated to 110° C, and 270.5 g of terphenyl were added. The temperature was raised to 140° C and left on that level for 4 hours. After cooling down to 100° C, 800 ml of water were added dropwise, and the mixture was allowed to cool and then filtered with suction, giving a crude product which was used direct in the next stage. Purity (HPLC): 99.7%; yield: 565 g.

reactant | sulfuric acid | 880 g | S(O)(O)(=O)=O | H2O4S
reactant | terphenyl | 270.5 g | C1(=CC=CC=C1)C=1C(=CC=CC1)C1=CC=CC=C1 | C18H14
solvent | water | 800 ml | O | H2O
product | Terphenyl-4,4 -disulfonic acid | C1(=CCC(C=C1)(S(=O)(=O)O)S(=O)(=O)O)C=1C(=CC=CC1)C1=CC=CC=C1 | C18H16O6S2
